US06825208B2
2′-(2-Carbamimidoyl-5,6a,7,11b-tetrahydro-6H-indeno[2,1-c]quinolin-6-yl)-5′-hydroxy-2,4′-dimethoxy-biphenyl-4-carboxylic acid isobutyl-amide.
A mixture of 2′-(2-Carbamimidoyl-5,6a,7,11b-tetrahydro-6H-indeno[2,1-c]quinolin-6-yl)-5′-hydroxy-2,4′-dimethoxy-biphenyl-4-carboxylic acid (10.7 mg, 0.02 mmol), BOP, (0.04 mmol), diidopropylethylamine (10.3 mg, 0.08 mmol) and isobutylamine (4.4 mg, 0.06 mmol) in DMF was allowed to react at room temperature. Example 235 was purified by HPLC. Mass Spectrum: 591 (M+1).

reactant | 2′-(2-Carbamimidoyl-5,6a,7,11b-tetrahydro-6H-indeno[2,1-c]quinolin-6-yl)-5′-hydroxy-2,4′-dimethoxy-biphenyl-4-carboxylic acid | 0.02 mmol, 10.7 mg | C(N)(=N)C=1C=C2C3C(C(NC2=CC1)C1=C(C=C(C(=C1)OC)O)C1=C(C=C(C=C1)C(=O)O)OC)CC1=CC=CC=C13 | C32H29N3O5
reactant | BOP | 0.04 mmol | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | isobutylamine | 0.06 mmol, 4.4 mg | C(C(C)C)N | C4H11N
solvent | DMF | CN(C)C=O | C3H7NO
product | 2′-(2-Carbamimidoyl-5,6a,7,11b-tetrahydro-6H-indeno[2,1-c]quinolin-6-yl)-5′-hydroxy-2,4′-dimethoxy-biphenyl-4-carboxylic acid isobutyl-amide | C(C(C)C)NC(=O)C1=CC(=C(C=C1)C1=C(C=C(C(=C1)O)OC)C1NC2=CC=C(C=C2C2C1CC1=CC=CC=C12)C(N)=N)OC | C36H38N4O4
